US04672067
(ii) N-[[3-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl) ethyl]-1-methyl-1H-indol-5-yl]methyl]formamide, hemihydrate
Sodium hydride in oil (80%, 0.045 g) was added under nitrogen to a stirred solution of N-[[3-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indol-5-yl]methyl]formamide (0.5 g) in dimethylformamide (20 ml) and stirring continued for 30 min. The solution was then treated with methyl iodide (0.2 ml). After 3 h, the solution was diluted with ethyl acetate (150 ml) washed with brine (10%, 3×50 ml), dried (sodium sulphate), filtered and evaporated to dryness giving a yellow solid which was crystallised from ethyl acetate to give the title compound (0.2 g) as an off-white solid m.p. 189°-191°.

reactant | Sodium hydride | [H-].[Na+]
reactant | N-[[3-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indol-5-yl]methyl]formamide | 0.5 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CNC2=CC=C(C=C12)CNC=O | C20H17N3O3
reactant | methyl iodide | 0.2 ml | CI | CH3I
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | N-[[3-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl) ethyl]-1-methyl-1H-indol-5-yl]methyl]formamide, hemihydrate | 0.2 g | O.O=C1N(C(C2=CC=CC=C12)=O)CCC1=CN(C2=CC=C(C=C12)CNC=O)C.O=C1N(C(C2=CC=CC=C12)=O)CCC1=CN(C2=CC=C(C=C12)CNC=O)C | InChI=1S/2C21H19N3O3.H2O/c2*1-23-12-15(18-10-14(11-22-13-25)6-7-19(18)23)8-9-24-20(26)16-4-2-3-5-17(16)21(24)27;/h2*2-7,10,12-13H,8-9,11H2,1H3,(H,22,25);1H2
